US04195030
523.8 g. 1,1-dimethyl-1-sila-2-oxacyclohexane (4.0 moles), 304.7 g. acrylic acid (4.2 moles), 1.0 g. hydroquinone, 13.5 ml concentrated sulfuric acid, and 1200 ml cyclohexane are measured into a 3 liter reactor. The mixture is stirred during heating. The mixture is heated with steam (100° C.) and kept under dry air. Water formed during the reaction is removed continuously as the cyclohexane and water azeotrope. After 6 hrs. of heating, 31.9 ml water is collected and heating is stopped. The solution is then column filtered over 1 kg. activated alumina and filtered again over 740 g. grade 12 silica gel. The cyclohexane is removed from the product by rotary evaporation at reduced pressure. 1,3-bis (4-acryloxy butyl) tetramethyl disiloxane is obtained. The product is 98.3% pure by gas chromatography. The identity of the product is confirmed by infrared spectrum and elemental analysis. The analysis results are 55.96% C, 9.26% H, and 13.85% Si.

reactant | 1,1-dimethyl-1-sila-2-oxacyclohexane | 4.0 moles | C[Si]1(OCCCC1)C | C6H14OSi
reactant | acrylic acid | 4.2 moles | C(C=C)(=O)O | C3H4O2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | sulfuric acid | 13.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | cyclohexane | 1200 ml | C1CCCCC1 | C6H12
product | 1,3-bis (4-acryloxy butyl) tetramethyl disiloxane | C(C=C)(=O)OCCCC[Si](O[Si](CCCCOC(C=C)=O)(C)C)(C)C | C18H34O5Si2
